US08895547B2
C-(3-Bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide
While cooling with ice, 9.90 g of 3-bromobenzylsulfonyl chloride were initially charged in 120 ml of dichloromethane, and a solution of 11.55 ml of 2,4-dimethoxybenzylamine in 60 ml of dichloromethane was added dropwise within 15 minutes. The reaction mixture was allowed to come to room temperature and stirred for 1 hour. Subsequently, the mixture was washed with 50 ml of water, with 100 ml of 1 N aqueous hydrochloric acid, with 100 ml of saturated aqueous sodium hydrogencarbonate solution and finally once more with 100 ml of water. The organic phase was dried over MgSO4 and concentrated by rotary evaporation. The residue (14.30 g) was used in the next reaction without further purification.

reactant | 3-bromobenzylsulfonyl chloride | 9.90 g | BrC=1C=C(CS(=O)(=O)Cl)C=CC1 | C7H6BrClO2S
reactant | 2,4-dimethoxybenzylamine | 11.55 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | C-(3-Bromophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | BrC=1C=C(C=CC1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18BrNO4S
